US07671215B2
Mixture of 855 mg of benzyl ester of (2S,3aS,7aS)-2-carboxyperhydro indole, 651 mg of N-((S)-1-carbethoxybutyl)-(S)-alanine and 1137 mg of O-(benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate and 0.84 ml of triethylamine was stirred in 20 ml of acetonitrile for 30 minutes. 50 ml of saturated NaCl was added and product was extracted twice with 35 ml of EtOAc. Combined extracts were washed with 70 ml of water/1 ml of conc. HCl and than with 130 ml of waters dried with Na2SO4 and evaporated at 40° C. in vacuum. 1210 mg (87.7%) of benzyl (2S,3aS,7aS)-((2-(1-(ethoxycarbonyl)-(S)-butylamino)-(S)-propionyl)octahydroindole-2-carboxylate (benzyl ester of perindopril) was obtained.

reactant | (2S,3aS,7aS)-2-carboxyperhydro indole | C(=O)(O)[C@H]1N[C@H]2CCCC[C@H]2C1 | C9H15NO2
reactant | N-((S)-1-carbethoxybutyl)-(S)-alanine | 651 mg | C(=O)(OCC)[C@H](CCC)N[C@@H](C)C(=O)O | C10H19NO4
reactant | O-(benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 1137 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | NaCl | 50 ml | [Na+].[Cl-]
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
solvent | triethylamine | 0.84 ml | C(C)N(CC)CC | C6H15N
product | (2-(1-(ethoxycarbonyl)-(S)-butylamino)-(S)-propionyl)octahydroindole-2-carboxylate | C(C)OC(=O)[C@H](CCC)N[C@H](C(=O)OC(=O)C1NC2CCCCC2C1)C | C19H32N2O5
